US20010049441A1
1-(4-Fluorobenzenesulfonyl)-3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-7-azaindole (9.1 mg, 54.8%);
1-(4-Chlorobenzenesulfonyl)-3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl-7-azaindole (10.2 mg, 58.9%); from 3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-1H-7-Azaindole (10 mg, 0.0418 mmol), 4-fluorobenzenesulfonyl chloride (20 mg, 0.095 mmol) and 1M NaN(TMS)2 (100 μL, 0.10 mmol) in THF (0.5 mL) at RT.

reactant | 3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-1H-7-Azaindole | 0.0418 mmol, 10 mg | C1CCN2CC=C(CC12)C1=CNC2=NC=CC=C12 | C15H17N3
reactant | 4-fluorobenzenesulfonyl chloride | 0.095 mmol, 20 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | NaN(TMS)2 | 0.10 mmol, 1M, 100 μL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 1-(4-Fluorobenzenesulfonyl)-3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-7-azaindole | FC1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CN=C12)C1=CCN2CCCC2C1 | C21H20FN3O2S
